US06462036B1
N-[4-(1-benzenesulphonyl-1,4-dihydroindeno[1,2-c]pyrazol-3-yl) phenyl]benzenesulphonamide (0.56 g) was suspended in methanol (40 ml) and a 2N aqueous solution of sodium hydroxide (5.3 ml) added at ambient temperature. A clear solution was obtained. The reaction mixture was stirred at ambient temperature for about 20 minutes and then poured onto a 2N aqueous solution of hydrochloric acid (75 ml). A colourless solid precipitated, which was collected by filtration (0.42 g). The solid was partitioned between an aqueous solution of sodium bicarbonate (25 ml) and ethyl acetate (25 ml), and stirred for about 30 minutes at ambient temperature. It was then collected by filtration and dried in vacuo at about 60° C. to give N-[4-(1,4-dihydroindeno[1,2-c]pyrazol-3-yl)phenyl]benzenesulphonamide as a colourless solid (0.14 g) m.p. 286-288° C.

reactant | N-[4-(1-benzenesulphonyl-1,4-dihydroindeno[1,2-c]pyrazol-3-yl) phenyl]benzenesulphonamide | 0.56 g | C1(=CC=CC=C1)S(=O)(=O)N1N=C(C2=C1C1=CC=CC=C1C2)C2=CC=C(C=C2)NS(=O)(=O)C2=CC=CC=C2 | C28H21N3O4S2
reactant | sodium hydroxide | 5.3 ml | [OH-].[Na+]
reactant | hydrochloric acid | 75 ml | Cl | ClH
solvent | methanol | 40 ml | CO | CH4O
product | N-[4-(1,4-dihydroindeno[1,2-c]pyrazol-3-yl)phenyl]benzenesulphonamide | 0.14 g | N1N=C(C2=C1C1=CC=CC=C1C2)C2=CC=C(C=C2)NS(=O)(=O)C2=CC=CC=C2 | C22H17N3O2S
